US07071184B2
i. [(S)-1-((3S,4S,7R)-3-Hydroxy-7-methyl-azepan-4-ylcarbamoyl)-3-methyl-butyl]-carbamic acid tert-butyl ester
(2R,5S,6S)-5-((S)-2-tert-Butoxycarbonylamino-4-methyl-pentanoylamino)-6-hydroxy-2-methyl-azepane-1-carboxylic acid benzyl ester (0.169 g, 0.344 mmol) was dissolved in EtOAc (3 ml), MeOH (1 ml). Then 10% Pd/C (0.183 g, 0.172 mmol) was added and the reaction was stirred overnight under a balloon filled with hydrogen gas. The reaction mixture was filtered through Celite, concentrated in vacuo by rotary evaporation and was used in the next reaction without further purification (0.126 g): Electrospray mass spec: M+H+=358.11.

reactant | (2R,5S,6S)-5-((S)-2-tert-Butoxycarbonylamino-4-methyl-pentanoylamino)-6-hydroxy-2-methyl-azepane-1-carboxylic acid benzyl ester | 0.344 mmol, 0.169 g | C(C1=CC=CC=C1)OC(=O)N1[C@@H](CC[C@@H]([C@H](C1)O)NC([C@H](CC(C)C)NC(=O)OC(C)(C)C)=O)C | C26H41N3O6
reactant | MeOH | 1 ml | CO | CH4O
reactant | hydrogen | [H][H] | H2
solvent | EtOAc | 3 ml | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.172 mmol, 0.183 g | [Pd] | Pd
product | [(S)-1-((3S,4S,7R)-3-Hydroxy-7-methyl-azepan-4-ylcarbamoyl)-3-methyl-butyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](CC(C)C)C(N[C@@H]1[C@H](CN[C@@H](CC1)C)O)=O)=O | C18H35N3O4
